US05714487
(7S,8aS)-7-(4-Fluorophenoxy)-2-(5-fluoropyrimidin-2-yl)-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine
A solution of 0.83 g (2.5 mmol) of (7S,8aS)-7-(4-fluorophenoxy)-2-phenylmethyl-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine in 10 mL of methanol and 1.8 mL of aqueous ammonium formate (5M) was treated with an aqueous slurry of 0.325 g of 10% palladium on carbon and the mixture was stirred at room temperature for 24 h. The mixture was filtered through Celite, evaporated, re-evaporated with another 100 mL of chloroform, dissolved in 100 mL of chloroform, dried (magnesium sulfate), filtered and evaporated. The crude amine (0.61 g, ca. 2.5 mmol), 0.50 g (3.75 mmol) of 2-chloro-5-fluoropyrimidine (Dunaiskis, A.; et al. Org. Prep. Proc. Int., 1995, 27, 600-602), 0.86 g (6.2 mmol) of potassium carbonate and 15 mL of 2-propanol were refluxed for 5.5 h. The mixture was cooled to room temperature, diluted with water, and extracted with ethyl acetate (3×). The combined organic phase was washed with water (2×) and brine (1×), dried (magnesium sulfate), filtered and evaporated. Purification by silica gel MPLC starting with 70:30 ethyl acetate:hexane and ramping to 50:50 ethyl acetate:hexane at 30 min, gave 0.30 g (36%) of the title compound. mp (.HCl) 90°-95 ° C. 13C NMR (base, CDCl3): δ 36.6, 43.6, 48.7, 60.5, 62.1, 75.6, 115.67, 115.98, 116.08, 116.18, 144.97, 145.26, 149.9, 153.2, 153.8, 155.6, 158.8. HRMS calcd for C17H19F2N4O (MH+): 333.1527, found: 333.1556.

reactant | (7S,8aS)-7-(4-fluorophenoxy)-2-phenylmethyl-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine | 2.5 mmol, 0.83 g | FC1=CC=C(O[C@H]2C[C@@H]3N(CCN(C3)CC3=CC=CC=C3)C2)C=C1 | C20H23FN2O
reactant | 2-chloro-5-fluoropyrimidine | 3.75 mmol, 0.50 g | ClC1=NC=C(C=N1)F | C4H2ClFN2
reactant | potassium carbonate | 6.2 mmol, 0.86 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-propanol | 15 mL | CC(C)O | C3H8O
solvent | methanol | 10 mL | CO | CH4O
solvent | ammonium formate | 5M, 1.8 mL | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 0.325 g | [Pd] | Pd
solvent | water | O | H2O
product | (7S,8aS)-7-(4-Fluorophenoxy)-2-(5-fluoropyrimidin-2-yl)-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine | 0.30 g, 36% | FC1=CC=C(O[C@H]2C[C@@H]3N(CCN(C3)C3=NC=C(C=N3)F)C2)C=C1 | C17H18F2N4O
